Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / peanuts / shellfish derived / nuts
 
Attending: ___.
 
Chief Complaint:
abd pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ G0 presenting with lower abdominal pain and fever x 1
week. Patient reports that she began having lower abdominal pain
and back pain 7 days ago associated with subjective fevers. She
presented to urgent care at ___ where she was treated
empirically with macrobid however urine culture was negative. 
She
then represented 4 days later with worsening back pain at which
time she was found to be febrile and tachycardic. At that time
she had a lumbosacral x-ray which was normal and given concern
for pyelonephritis her antibiotics were switched to
ciprofloxacin. Later that day she presented to ___ for chest 
pain
as well as a cough, she was told she had a viral URI and was 
sent
home. She continued to have lower abdominal pain, back pain and
fevers however yesterday she noticed bleeding when going to the
bathroom prompting her to represent to urgent care.  

At urgent care she was noted to have leukopenia/thrombocytopenia
with a WBC 2.5, Plt 120, 3+blood and protein on urine dip. A CT
abdomen and pelvis was performed which was overall unremarkable 
without any evidence of infection or abscess.  Her physical exam
was notable for mild suprapubic tenderness, significant CMT,
friable appearing cervix and purulent discharge. Plan was made
for outpatient PID however she was noted to be febrile to 103 on
repeat vital and thus was sent to ___ ED for further
evaluation.

On initial evaluation here she was noted to be febrile and
tachycardic, exam was unchanged from prior. She received 1000mg
acetaminophen, 1gm CTX, 100mg IV doxy and 2L IVF.

On my evaluation she reports that she continues to have ___
lower abdominal and back pain but feels improved from earlier
yesterday. In addition to her pain she reports dry cough for
several days but denies any other upper respiratory symptoms. 
She
reports having nausea and the sensation that she needs to vomit
but is not able to. She denies any recent travel or sick
contacts.

She denies chest pain, SOB, HA, vision changes, rash, abnormal
vaginal discharge, diarrhea, constipation, hematochezia or
melena.
 
Past Medical History:
PMH: asthma, seasonal allergies, hydradinitis, intellectual 
delay
PSH: ganglion cyst removal, chronic back pain

 
Social History:
___
Family History:
Reviewed, none pertinent to this hospitalization
 
Physical Exam:
PHYSICAL EXAM:  
VS:  98.8 Tm ___ hr 88 18 97% RA 
GENL: pleasant, NAD  
EENT: moist mucous membranes, no ulcers / lesions / thrush  
NECK: supple  
CARD: RRR, normal S1, S2, no murmurs / rubs / gallops  
PULM: clear to auscultation bilaterally w/o wheezes / rhonchi /
rales  
BACK: no focal tenderness, no costovertebral angle tenderness  
ABDM: non-distended, normoactive bowel sounds, soft, non-tender,
no hepatosplenomegaly  
MSK: no joint swelling or erythema  
EXTR: warm and well perfused
LYMPH: no cervical lymphadenopathy  
SKIN: small nodule in right axilla mildly tender, no erythema
noted
NEURO: awake, alert
PSYCH: non-anxious, normal affect  
 
 
Pertinent Results:
___ 06:55AM BLOOD WBC-2.8* RBC-4.06 Hgb-12.4 Hct-36.3 
MCV-89 MCH-30.5 MCHC-34.2 RDW-11.9 RDWSD-38.5 Plt ___
___ 06:55AM BLOOD Neuts-28* Bands-0 Lymphs-60* Monos-7 
Eos-1 Baso-0 Atyps-4* ___ Myelos-0 AbsNeut-0.78* 
AbsLymp-1.79 AbsMono-0.20 AbsEos-0.03* AbsBaso-0.00*
___ 06:06AM BLOOD ___ PTT-27.7 ___
___ 06:55AM BLOOD Glucose-95 UreaN-8 Creat-0.7 Na-141 K-3.8 
Cl-105 HCO3-25 AnGap-15
___ 06:55AM BLOOD ALT-327* AST-268* AlkPhos-40 TotBili-0.6
___ 06:55AM BLOOD Mg-2.0
___ 04:44PM BLOOD HBsAg-Negative HBsAb-Borderline
___ 04:44PM BLOOD HIV Ab-UNABLE TO  HIV1-UNABLE TO  
HIV2-UNABLE TO 
___ 04:44PM BLOOD HCV Ab-Negative
___ 07:48AM BLOOD HBV VL-NOT DETECT HCV VL-NOT DETECT
___ 07:48AM BLOOD HIV1 VL-6.5*

All cx negative or NGTD

CXR:
FINDINGS: 
 
Shallow inspiration accentuates heart size.  Normal pulmonary 
vascularity.  No
edema.  Minimal right basilar opacity, likely atelectasis in the 
setting of
shallow inspiration.  There may be trace right pleural effusion 
or thickening.
No definite left pleural effusion..  No pneumothorax.
 
IMPRESSION: 
 
No definite infiltrates.
 
Brief Hospital Course:
___ yo woman with h/o asthma, hydradenitis, and hepatic steatosis 
who presented with fevers and back/abdominal pain x 1 week, 
initially treated for PID, found to have pancytopenia and 
neutropenia with fever and hepatitis, ultimately found to have 
acute HIV 1 infection.  Problem list and hospital course below

PROBLEMS:
-Acute HIV 1 infection
-Neutropenia with fever/Thrombocytopenia
-Acute hepatitis with h/o steatosis
-Hydradenitis Suppurativa

The patent was initially admitted to the GYN service and placed 
on Clinda/Gent for presumed PID.  GC/Chlamydia negative.  She 
remained febrile to 103 with leukopenia/neutropenia and 
thrombocytopenia as well as acute hepatitis.  CT scan at ___ 
was negative.  Hepatitis panel was negative.  ID was consulted 
and felt her condition most resembled an acute viral syndrome.  
After further evaluation, she was found to have acute HIV 
infection with vl 6.5 million copies and indeterminate serology. 
 EBV/CMV/Parvo/HSV was negative for acute infection.  Her fevers 
resoled and her cytopenia/hepatitis stabilized.  ID recommended 
close outpatient follow up to initiate HAART.  Her sister was 
involved in her care, but her mother IS NOT TO BE INFORMED.

Regarding her hydradenitis, she had a mild flare in her R 
axilla.  She was prescribed 14 days of Doxycycline.

Please repeat CBC/diff and LFTs on next follow up 1 week from 
now.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Cetirizine 10 mg PO DAILY 
3. Montelukast 10 mg PO DAILY 
4. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
2.  Albuterol Inhaler ___ PUFF IH Q6H:PRN sob  
3.  Cetirizine 10 mg PO DAILY  
4.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
5.  Montelukast 10 mg PO DAILY  
6.Outpatient Lab Work
Please have your CBC with differential, AST, ALT, Alk Phos, T. 
bili tested on next follow up

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever
Hydradenitis suppurativa

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of fever, low blood counts.  
Please follow up with your doctors as ___.  Please repeat 
your blood counts and liver tests on follow up.  Please complete 
your course of Doxycycline as prescribed.

Until your blood counts improve, please avoid contacts with 
people who are sick
 
Followup Instructions:
___